US07262185B2
7-[4-(2-butoxyethoxy)phenyl]-1-trifluoroacetyl-2,3-dihydro-1H-1-benzazepine-4-carboxylic acid (1.5 g), [4-amino-2-(2,2,2-trifluoroethoxy)phenyl] (pyridin-2-yl)methanol (0.94 g) and 1-hydroxybenzotriazole (0.72 g) were dissolved in N,N-dimethylformamide (25 ml), and to the solution were added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (1.8 g), triethylamine (2.2 ml) and 4-dimethylaminopyridine (catalytic amount) at room temperature under ice-cooling, and the mixture was stirred overnight. The mixture was poured into water, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and dried over anhydrous magnesium sulfate, and then, the solvent was distilled off. The residue was purified by silica gel column chromatography (elution solvent: ethyl acetate/hexane), to give 7-[4-(2-butoxyethoxy)phenyl]-N-[4-[hydroxy(pyridin-2-yl)methyl]-3-(2,2,2-trifluoroethoxy)phenyl]-1-trifluoroacetyl-2,3-dihydro-1H-1-benzazepine-4-carboxamide (1.5 g) as colorless crystals.

reactant | 7-[4-(2-butoxyethoxy)phenyl]-1-trifluoroacetyl-2,3-dihydro-1H-1-benzazepine-4-carboxylic acid | 1.5 g | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2C(C(F)(F)F)=O)C(=O)O)C1 | C25H26F3NO5
reactant | [4-amino-2-(2,2,2-trifluoroethoxy)phenyl] (pyridin-2-yl)methanol | 0.94 g | NC1=CC(=C(C=C1)C(O)C1=NC=CC=C1)OCC(F)(F)F | C14H13F3N2O2
reactant | 1-hydroxybenzotriazole | 0.72 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.8 g | Cl.C(C)N=C=NCCCN(C)C
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | O | H2O
solvent | triethylamine | 2.2 ml | C(C)N(CC)CC | C6H15N
product | 7-[4-(2-butoxyethoxy)phenyl]-N-[4-[hydroxy(pyridin-2-yl)methyl]-3-(2,2,2-trifluoroethoxy)phenyl]-1-trifluoroacetyl-2,3-dihydro-1H-1-benzazepine-4-carboxamide | 1.5 g | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2C(C(F)(F)F)=O)C(=O)NC2=CC(=C(C=C2)C(C2=NC=CC=C2)O)OCC(F)(F)F)C1 | C39H37F6N3O6
